US04939261
N-[(R*,R* -2,4-dibenzyl-4-carboxybutyryl]-3-aminopropionic acid, melting at 122°-124°. N-[(R*,R*)-2,4-dibenzyl-4-carboxybutyryl]-3-aminopropionic acid is converted to the disodium salt by the following procedure: To the solution of 0.38 g of the diacid in 25 ml of methanol:water (2:1) is added 2.0 ml of 1.00N sodium hydroxide. The solution is concentrated to give a solid. Ethanol is added and the suspension is concentrated and the solid is dried at 50° under high vacuum to yield the N-[(R*,R*)-2,4-dibenzyl-4-carboxybutyryl]-3-aminopropionic acid disodium salt.

reactant | N-[(R*,R*)-2,4-dibenzyl-4-carboxybutyryl]-3-aminopropionic acid | C(C1=CC=CC=C1)[C@H](C(=O)NCCC(=O)O)C[C@@H](C(=O)O)CC1=CC=CC=C1 | C22H25NO5
reactant | disodium | [Na][Na] | 2Na
reactant | sodium hydroxide | 1.00N, 2.0 ml | [OH-].[Na+]
reactant | Ethanol | C(C)O | C2H6O
solvent | methanol water | 25 ml | CO.O
product | N-[(R*,R*)-2,4-dibenzyl-4-carboxybutyryl]-3-aminopropionic acid disodium salt | [Na+].[Na+].C(C1=CC=CC=C1)[C@H](C(=O)NCCC(=O)[O-])C[C@@H](C(=O)O)CC1=CC=CC=C1.C(C1=CC=CC=C1)[C@H](C(=O)NCCC(=O)[O-])C[C@H](CC1=CC=CC=C1)C(=O)O | InChI=1S/2C22H25NO5.2Na/c2*24-20(25)11-12-23-21(26)18(13-16-7-3-1-4-8-16)15-19(22(27)28)14-17-9-5-2-6-10-17;;/h2*1-10,18-19H,11-15H2,(H,23,26)(H,24,25)(H,27,28);;/q;;2*+1/p-2/t2*18-,19-;;/m00../s1
